US07829563B2
To a mixture of 19.2 g (155 mmol) dimethyl methylphosphonate in 150 mL THF at −70° C. was added 97 mL (155 mmol) 1.6M n-BuLi in hexane. The mixture was stirred for 45 min and a solution of 11.8 g (70 mmol) 4-fluoro-3-methyl-benzoic acid methyl ester in 15 mL THF was added. After 15 min at −70° C. the mixture was allowed to warm to 0° C. and neutralized with 4N HCl in dioxane. The mixture was diluted with 500 mL THF to obtain [2-(4-fluoro-3-methyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester. 6 mmol [2-(4-fluoro-3-methyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester in THF was stirred together with 0.5 g (4.6 mmol) pyrimidine-5-carboxaldehyde and 1.65 g Cs2CO3 for 16 h at room temperature. The mixture was diluted with NH4Cl aq. and ethyl acetate. The organic layer was separated, dried with MgSO4 and evaporated to dryness. The residue was used crude in the consecutive step.

reactant | dimethyl methylphosphonate | 155 mmol, 19.2 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-BuLi | 155 mmol, 1.6M, 97 mL | [Li]CCCC
reactant | 4-fluoro-3-methyl-benzoic acid methyl ester | 70 mmol, 11.8 g | COC(C1=CC(=C(C=C1)F)C)=O | C9H9FO2
reactant | HCl | 4N | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | [2-(4-fluoro-3-methyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=CC(=C(C=C1)F)C | C11H14FO4P
